US07932401B2
12.6 Analogous reaction of 5-[5-iodo-2,4-dimethoxyphenyl]1-(2,3-dihydrobenzo-1,4-dioxin-6-yl)-1H-pyrazole with 4-vinyltoluene, hydrogenation and ether cleavage gives the compound 5-{5-[2-(4-methylphenyl)ethyl]2,4-dihydroxyphenyl}-1-(2,3-dihydrobenzo-1,4-dioxin-6-yl)-1H-pyrazole.

reactant | 5-[5-iodo-2,4-dimethoxyphenyl]1-(2,3-dihydrobenzo-1,4-dioxin-6-yl)-1H-pyrazole | IC=1C(=CC(=C(C1)C1=CC=NN1C1=CC2=C(OCCO2)C=C1)OC)OC | C19H17IN2O4
reactant | 4-vinyltoluene | C(=C)C1=CC=C(C=C1)C | C9H10
solvent | ether | CCOCC | C4H10O
product | 5-{5-[2-(4-methylphenyl)ethyl]2,4-dihydroxyphenyl}-1-(2,3-dihydrobenzo-1,4-dioxin-6-yl)-1H-pyrazole | CC1=CC=C(C=C1)CCC=1C(=CC(=C(C1)C1=CC=NN1C1=CC2=C(OCCO2)C=C1)O)O | C26H24N2O4
